US07732632B2
Oseltamivir phosphate (20 gm, HPLC purity: 97%) is stirred with water (100 ml) and methylene chloride (100 ml) for 10 minutes at 25-30° C. and then pH of the mass is adjusted to 9-10 with liquor ammonia. Separated the layers, the organic layer is subjected to carbon treatment and filtered on hiflo bed. Washed the hiflo bed with methylene chloride (20 ml) and then distilled the organic layer under vacuum at 40° C. to give 16.5 gm of oseltamivir free base as a residue.

reactant | Oseltamivir phosphate | 20 gm | CCC(CC)O[C@@H]1C=C(C[C@@H]([C@H]1NC(=O)C)N)C(=O)OCC.OP(=O)(O)O
reactant | water | 100 ml | O | H2O
reactant | ammonia | N | H3N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | oseltamivir | 16.5 gm | CCC(CC)O[C@@H]1C=C(C[C@@H]([C@H]1NC(=O)C)N)C(=O)OCC | C16H28N2O4
